US04616014
A solution of n-valeryl chloride (1.93 g) in methylene chloride (3 ml) was added dropwise to a stirred solution of 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine (3.224 g) and triethylamine (1.784 g) in methylene chloride (40 ml) under ice cooling, and the stirring was continued for 30 minutes. The reaction mixture was evaporated and the resultant residue was extracted with ethyl acetate after addition of water. The extract was washed successively with 5% hydrochloric acid, water, a saturated aqueous solution of sodium bicarbonate and water, dried over magnesium sulfate, and then concentrated to a small volume under reduced pressure. The resultant residue was crystallized from diethyl ether, collected by filtration, washed with diethyl ether and dried to give 5-methyl-6-phenyl-3-(2-valerylhydrazino)-1,2,4-triazine (3.406 g).

reactant | n-valeryl chloride | 1.93 g | CCCCC(=O)Cl | C5H9ClO
reactant | 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine | 3.224 g | N(N)C=1N=NC(=C(N1)C)C1=CC=CC=C1 | C10H11N5
reactant | triethylamine | 1.784 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 5-methyl-6-phenyl-3-(2-valerylhydrazino)-1,2,4-triazine | 3.406 g | CC=1N=C(N=NC1C1=CC=CC=C1)NNC(CCCC)=O | C15H19N5O
